US08466133B2
3,6,6-Trimethyl-1,4-dioxane-2,5-dione (2) (referred as dimethyl-substituted lactide)
5 g α-hydroxyisobutyric acid (48 mmol) and 5.15 mL 2-bromopropionyl chloride (50 mmol) were stirred at 75° C. under nitrogen for 12 h. 300 mL acetone and 14 mL anhydrous triethylamine (100 mmol) were added to the mixture and the solution was stirred for 3 h at 60° C. After filtration of the triethylammonium chloride salts, acetone was distilled off and the resulting mixture was dissolved in 450 mL ethyl acetate:hexane mixture (1:1). After filtration over silica gel the solvents were distilled off, and the remaining crude product was recrystallized from ethyl acetate:hexane mixture (1:10). 1H NMR (500 MHz, CDCl3): δ 5.1 (q, 1H), 1.705 (s, 6H), 1.69 (d, 3H). 13C NMR (500 MHz, CDCl3): δ 168.58, 166.64, 80.54, 72.90, 26.23, 25.27, 17.41. ELEM. ANAL. Calcd. for C7H10O4: C, 53.16; H, 6.33. Found: C, 52.86; H, 6.39. Yield: 46%.

reactant | α-hydroxyisobutyric acid | 48 mmol, 5 g | OC(C(=O)O)(C)C | C4H8O3
reactant | 2-bromopropionyl chloride | 50 mmol, 5.15 mL | BrC(C(=O)Cl)C | C3H4BrClO
reactant | triethylamine | 100 mmol, 14 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 3,6,6-Trimethyl-1,4-dioxane-2,5-dione | Yield: 46% | CC1C(OC(C(O1)=O)(C)C)=O | C7H10O4
